US07956188B2
In a similar procedure to Stage 2 of Example 1, (3-iodo-quinolin-6-yloxy)-methylsulfanyl-acetic acid was condensed with t-butylamine to give N-tert-butyl-2-(3-iodo-quinolin-6-yloxy)-2-methylsulfanyl-acetamide as a white solid (MH+ 431).

reactant | (3-iodo-quinolin-6-yloxy)-methylsulfanyl-acetic acid | IC=1C=NC2=CC=C(C=C2C1)OC(C(=O)O)SC | C12H10INO3S
reactant | t-butylamine | C(C)(C)(C)N | C4H11N
product | N-tert-butyl-2-(3-iodo-quinolin-6-yloxy)-2-methylsulfanyl-acetamide | C(C)(C)(C)NC(C(SC)OC=1C=C2C=C(C=NC2=CC1)I)=O | C16H19IN2O2S
